US06562807B2
4-(4-tert-Butylcyclohex-1-enyl)aniline was prepared in analogy to procedure for preparation of building block 11 using 4-tert-butylcyclohexanone (0.59 mol) and aniline.

reactant | 4-tert-butylcyclohexanone | 0.59 mol | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-(4-tert-Butylcyclohex-1-enyl)aniline | C(C)(C)(C)C1CC=C(CC1)C1=CC=C(N)C=C1 | C16H23N
